reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([N:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2](/[N:3]=[C:4](\[O:5][H:11])[O:6][C:7]([H:14])([H:15])[H:16])[H:12])([H:8])[H:10].[H:9][H:13],111.45163741899201
[C:1]([C@@:2]([O:3][H:10])([C:4]([O:5][H:13])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2]([O:3][H:10])([H:9])[H:12])([H:6])([H:7])[H:8].[C:4]([O:5][H:13])[H:11],82.38934739785041
[H:8][H:10].[N:1]([C:2](=[O:3])[C:4](=[O:5])[H:9])([H:6])[H:7]>>[N:1]([C:2](=[O:3])[C:4]([O:5][H:10])([H:8])[H:9])([H:6])[H:7],66.9747499928761
[N:1]([C@@:2]([C:3]([O:4][H:12])([H:10])[H:11])([C:5]#[N:6])[H:9])([H:7])[H:8]>>[C:3](=[O:4])([H:10])[H:11].[N:1]([C:2](=[C:5]=[N:6][H:12])[H:9])([H:7])[H:8],50.4082984625709
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[O+:7]=[C-:6][H:10])\[H:8],86.29904564444142
[O:1]=[C:2]([C@:5]1([H:11])[O:4][C:3]([H:8])([H:10])[C@@:6]1([O:7][H:13])[H:12])[H:9]>>[O:1]([C@@:2]1([H:9])[C@:3]2([H:10])[O:4][C@@:5]1([H:11])[C@:6]2([O:7][H:13])[H:12])[H:8],76.8041441316086
[C:1](=[C:2]([H:9])[H:10])([H:6])[H:7].[N:3](=[C:4](/[O:5][H:8])[H:12])\[H:11]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[H:12])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8],31.4747790541452
[H:8][H:9].[O:1]([C:2](=[C:3]=[O:4])[C:5]#[N:6])[H:7]>>[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[N:6])[H:8])[H:7],34.05052920708119
[C:5](=[O:6])([H:11])[H:13].[O:1]([C:2](/[C:3](=[N:4]/[H:12])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],52.083562232018515
[O:1]=[C:2]([C@@:3]1([H:7])[C-:4]([H:9])[N+:5]1([H:8])[H:10])[H:6]>>[O:1]=[C:2]([C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6],15.789226300225899
[C:1]([O:5][H:15])([H:6])([H:7])[H:8].[C:2](=[C:3]([C:4]([H:12])([H:13])[H:14])[H:11])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([C:4]([H:12])([H:13])[H:14])([O:5][H:15])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8],88.4720462690967
[C:1]([C:2]([O:3][C:5]([O:6][H:14])([H:12])[H:13])=[C:4]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],64.4444279759528
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8]>>[O:1]([C@@:2]([C:3][H:10])([C@@:7]1([H:15])[C@@:4]([O:5][H:12])([H:11])[C:6]1([H:13])[H:14])[H:9])[H:8],84.42779398001059
[C:1]([C@@:2]([C:3]([C:4]([O:5][H:16])([H:14])[H:15])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])[C@:2]([C:3]([C:4]([O:5][H:16])([H:14])[H:15])([H:12])[H:13])([H:11])/[C:6]1=[N:7]/[H:9],107.98185329908199
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:6]#[C:7][H:15])([H:8])([H:9])[H:10].[C:2]([C:3]([H:12])([H:13])[H:14])(=[C:4]=[O:5])[H:11],102.36170635855
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([C:3](/[C:4](=[C:5](/[O:6][H:9])[H:14])[H:13])([H:11])[H:12])[H:10])([H:7])[H:8],62.49269512536961
[N:1]1([H:9])[C:2](=[O:3])[C:4]1=[C:5]=[C:6]=[N:7][H:8]>>[N:1]([C:2](=[O:3])[C:4]#[C:5][C:6]#[N:7])([H:8])[H:9],35.40609520341361
[C:1]([C:2][C:4]([C:3]([H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]1([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:7])([H:8])[H:9],4.317527226087904
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:13])([H:14])[N:7]([H:12])[C:6][C@@:4]1([C:5]([H:16])([H:17])[H:18])[H:15])([H:8])([H:9])[H:10],97.41578326262041
[C:1]([C@:4]1([H:10])[O:3][C:2]([H:9])=[C:6]([H:12])[C:5]1([H:8])[H:11])[H:7]>>[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[O:3][C@:4]1([H:10])[C:5]([H:11])=[C:6]2[H:12],46.34560290585149
[C:1]([O:2][C:3]#[N:4])([H:8])([H:9])[H:10].[N:5]([C:6](=[O:7])[H:13])([H:11])[H:12]>>[C:1]([O:2]/[C:3](=[N:4]\[H:11])[N:5]([C:6](=[O:7])[H:13])[H:12])([H:8])([H:9])[H:10],58.1670985619989
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[C:6][H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])=[C:5]=[C:6]1[H:14])([H:7])([H:8])[H:9],77.26655869173808
[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](=[O:4])[H:12])=[C:5]=[O:6])([H:8])([H:9])[H:10].[N:7]([H:11])([H:13])[H:14],64.06094513330599
[N:1](=[C:2](/[O:3][C:4]([C:5]([N+:7]#[C-:6])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8]>>[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8],38.6668054167018
[C:1]([C:2]([N:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[N:3]\[H:13])[H:11])([H:8])([H:9])[H:10].[C:4](=[O:5])([O:6][C:7]([H:14])([H:15])[H:16])[H:12],98.34121171410351
